US05109009
A. 2-(2'-Pyridylmethoxy)acetanilide
By following the procedure of Example 1, part A, but replacing 4-acetaminophenol with 2-acetaminophenol, and 4-chloromethylpyridine hydrocholoride, with 2-chloromethylpyridine hydrochloride, the title compound is obtained.

reactant | 2-acetaminophenol | N(C(=O)C)C1=C(C=CC=C1)O | C8H9NO2
reactant | 4-chloromethylpyridine | ClCC1=CC=NC=C1 | C6H6ClN
product | 2-chloromethylpyridine hydrochloride | Cl.ClCC1=NC=CC=C1 | InChI=1S/C6H6ClN.ClH/c7-5-6-3-1-2-4-8-6;/h1-4H,5H2;1H
